US07977340B2
A stirred mixture of 7-Nitro-5-pyridin-3-yl-benzothiazol-2-ylamine (100 mg, 0.3676 mmol), ethyl isocyanate (0.18 ml, 1.831 mmol) and dibutyltindiacetate (10 drops) in anhydrous 1,4-dioxane (10 ml) was heated in a sealed vessel at 100° C. for 16 h. After cooling to ambient temperature, the precipitated solid was collected by filtration, washed with 1,4-doxane and dried in vacuo to give 1-Ethyl-3-(7-nitro-5-pyridin-3-yl-benzothiazol-2-yl)-urea as a yellow solid (30 mg, 24%).

reactant | 7-Nitro-5-pyridin-3-yl-benzothiazol-2-ylamine | 0.3676 mmol, 100 mg | [N+](=O)([O-])C1=CC(=CC=2N=C(SC21)N)C=2C=NC=CC2 | C12H8N4O2S
reactant | ethyl isocyanate | 1.831 mmol, 0.18 ml | C(C)N=C=O | C3H5NO
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-Ethyl-3-(7-nitro-5-pyridin-3-yl-benzothiazol-2-yl)-urea | 30 mg, 24% | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2[N+](=O)[O-])C=2C=NC=CC2 | C15H13N5O3S
